US04014920
7.5 g (0.03 mol) of 1-[p-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxypropane are dissolved in 75 ml of acetonitrile and added dropwise to a boiling stirred solution of 3.34 g (0.029 mol) of β-aminobutyric acid amide in 75 ml of aceto-nitrile. The mixture is stirred for 20 hours under reflux, the solvent is removed by distillation under reduced pressure and the oil which remains is partitioned between 350 ml of 0.1 N hydrochloric acid and 300 ml of ethyl acetate. The hydrochloric acid extract is separated off, rendered alkaline with sodium carbonate and extracted four times with 100 ml of ethyl acetate at a time. The organic phases are dried over sodium sulphate and evaporated under reduced pressure. The resulting oil yields 1-[p-(2-methoxycarbonylaminovinyl)-phenoxy]-2-hydroxy-3-(2-carbamoyl-1-methyl-ethylamino)-propane, of melting point 109°-111°C, from acetone acetate.

reactant | 1-[p-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxypropane | 0.03 mol, 7.5 g | COC(=O)NC=CC1=CC=C(OCC2CO2)C=C1 | C13H15NO4
reactant | β-aminobutyric acid amide | 0.029 mol, 3.34 g | NC(CC(=O)N)C | C4H10N2O
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
solvent | aceto-nitrile | 75 ml | C(C)#N | C2H3N
product | 1-[p-(2-methoxycarbonylaminovinyl)-phenoxy]-2-hydroxy-3-(2-carbamoyl-1-methyl-ethylamino)-propane | COC(=O)NC=CC1=CC=C(OCC(CNC(CC(N)=O)C)O)C=C1 | C17H25N3O5
